US08466176B2
To stirred neat formic acid (3.83 mL, 101.7 mmol) was added acetic anhydride (6.98 mL, 74.0 mmol). The reaction mixture was heated under stirring at 70° C. for 2 hrs and allowed to room temperature. A solution of 6-methylpyridin-2-amine (5.00 g, 46.23 mmol) in tetrahydrofurane (30 mL), was added dropwise in order to prevent temperature from rising above 45° C. The reaction mixture was allowed to room temperature and stirred for further 1 hr. The reaction mixture was concentrated in vacuo and the residue was diluted in 100 mL of ethanol. The reaction mixture was stirred for 2 hrs at room temperature concentrated in vacuo, yielding to N-(6-methylpyridin-2-yl)formamide as a yellow solid [2.00 g, yield 32%; HPLC/MS: m/z=137 (M+H); logP(HCOOH)=0.45].

reactant | formic acid | 101.7 mmol, 3.83 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 74.0 mmol, 6.98 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-methylpyridin-2-amine | 46.23 mmol, 5.00 g | CC1=CC=CC(=N1)N | C6H8N2
solvent | tetrahydrofurane | 30 mL | O1CCCC1 | C4H8O
product | N-(6-methylpyridin-2-yl)formamide | yield 32% | CC1=CC=CC(=N1)NC=O | C7H8N2O
